// Generated for: spectre
// Generated on: Feb  3 23:03:47 2024
// Design library name: ece4740
// Design cell name: lab1sim
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/opt/cadence-designkits/gpdk090_v3.9/libs.oa22/gpdk090/../../models/spectre/gpdk090.scs" section=NN

// Library name: ece4740
// Cell name: lab1inv
// View name: av_extracted
// View type: maskLayout
subckt lab1inv A Y
    c1 (Y \2\:A) capacitor c=2.75518e-19
    c2 (A \1\:vdd!) capacitor c=1.71649e-17
    c3 (\1\:A Y) capacitor c=5.55518e-17
    c4 (Y \1\:gnd!) capacitor c=9.00519e-18
    c5 (Y \1\:vdd!) capacitor c=2.71426e-17
    c6 (\2\:A \1\:vdd!) capacitor c=3.848e-17
    c7 (\3\:A \1\:gnd!) capacitor c=3.35011e-17
    c8 (\1\:A \1\:gnd!) capacitor c=1.08659e-17
    c9 (\1\:A \1\:vdd!) capacitor c=4.39639e-17
    c10 (\2\:gnd! A) capacitor c=8.54586e-19
    c11 (\2\:vdd! \2\:A) capacitor c=6.6869e-18
    c12 (\2\:gnd! \3\:A) capacitor c=7.68178e-18
    c13 (\2\:gnd! \1\:A) capacitor c=1.68148e-18
    c14 (\5\:gnd! \2\:Y) capacitor c=1.15559e-17
    c15 (\2\:Y \3\:A) capacitor c=1.29424e-17
    c16 (A \5\:vdd!) capacitor c=6.77372e-18
    c17 (\5\:vdd! \2\:A) capacitor c=1.348e-17
    c18 (\5\:vdd! \1\:A) capacitor c=1.91245e-18
    c19 (\2\:gnd! \2\:Y) capacitor c=6.43537e-18
    c20 (\5\:vdd! \5\:Y) capacitor c=1.5118e-17
    c21 (\5\:gnd! A) capacitor c=5.86713e-18
    c22 (\5\:Y \2\:vdd!) capacitor c=5.32963e-18
    c23 (\2\:Y \1\:A) capacitor c=4.57165e-19
    c24 (\5\:Y \1\:vdd!) capacitor c=2.36785e-17
    c25 (\5\:Y \2\:A) capacitor c=1.34864e-17
    c26 (\2\:Y \1\:gnd!) capacitor c=2.98426e-17
    c27 (\5\:gnd! \3\:A) capacitor c=1.08801e-17
    c28 (\5\:vdd! 0) capacitor c=1.51588e-18
    ri1 (\1\:A A) resistor r=10.0292 c=0
    ri3 (\2\:Y Y) resistor r=0.3661 c=0
    ri4 (Y \5\:Y) resistor r=0.3224 c=0
    ri6 (\1\:Y \2\:Y) resistor r=15 c=0
    ri7 (\4\:Y \5\:Y) resistor r=15 c=0
    ri8 (\1\:vdd! \2\:vdd!) resistor r=15.4544 c=0
    ri9 (\2\:vdd! \3\:vdd!) resistor r=0.2394 c=0
    ri10 (\3\:vdd! vdd!) resistor r=0.1125 c=0
    ri11 (\2\:vdd! \5\:vdd!) resistor r=0.3923 c=0
    ri13 (\1\:vdd! \3\:vdd!) resistor r=15 c=0
    ri14 (\4\:vdd! \5\:vdd!) resistor r=15 c=0
    ri15 (\1\:gnd! \2\:gnd!) resistor r=15.5144 c=0
    ri16 (\2\:gnd! \3\:gnd!) resistor r=0.2369 c=0
    ri17 (\3\:gnd! 0) resistor r=0.08125 c=0
    ri18 (\2\:gnd! \5\:gnd!) resistor r=0.2798 c=0
    ri20 (\1\:gnd! \3\:gnd!) resistor r=15 c=0
    ri21 (\4\:gnd! \5\:gnd!) resistor r=15 c=0
    rj1 (\2\:A \1\:A) resistor r=49.7927 c=0
    rj2 (\1\:A \3\:A) resistor r=60.2927 c=0
    PM0 (\4\:Y \2\:A \4\:vdd! \1\:vdd!) gpdk090_pmos1v w=2.4e-07 l=1e-07 \
        as=6.72e-14 ad=6.72e-14 ps=1.04e-06 pd=1.04e-06 m=(1)*(1)
    NM0 (\1\:Y \3\:A \4\:gnd! \1\:gnd!) gpdk090_nmos1v w=1.2e-07 l=1e-07 \
        as=6.96e-14 ad=6.96e-14 ps=1.16e-06 pd=1.16e-06 m=(1)*(1)
ends lab1inv
// End of subcircuit definition.

// Library name: ece4740
// Cell name: lab1sim
// View name: schematic
V0 (net1 0) vsource type=pulse val0=0 val1=1.2 period=2u delay=1u rise=10n \
        fall=10n
V1 (vdd! 0) vsource dc=1.2 type=dc
C0 (net2 0) capacitor c=10p
I5 (net1 net2) lab1inv
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=25.0 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 \
    rforce=1 maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=10u errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
